US08975406B2
N-(4-Bromopyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide (4.66 g, 17 mmol), 4-formylphenyl boronic acid (3.06 g, 20.4 mmol), PdCl2dppf (0.37 g, 0.45 mmol) and Na2CO3 (3.6 g, 34 mmol) were stirred in 1,4-dioxane (140 mL) and water (28 mL) at 100° C. for 3 h. The reaction mixture was cooled to room temperature, filtered through celite, washed through with DCM and concentrated in vacuo. The residue was triturated with EtOAc and dried in vacuo to afford N-(4-(4-formylphenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide.

reactant | N-(4-Bromopyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | 17 mmol, 4.66 g | BrC=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C11H10BrN3O
reactant | 4-formylphenyl boronic acid | 20.4 mmol, 3.06 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | Na2CO3 | 34 mmol, 3.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 28 mL | O | H2O
solvent | 1,4-dioxane | 140 mL | O1CCOCC1 | C4H8O2
product | N-(4-(4-formylphenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | C(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C18H15N3O2
